US06984653B2
Triethylamine (3.16 ml) and methanesulfonyl chloride (1.40 ml) were added to a solution of 2-[1-[4-(4-tert-butoxyphenyl)butyl]-1H-imidazol-2-yl]ethanol (4.77 g) in ethyl acetate (50 ml) at 0° C., and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was combined with water and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give crude 2-[1-[4-(4-tert-butoxyphenyl)butyl]-1H-imidazol-2-yl]ethyl methanesulfonate. Sodium thiomethoxide (2.25 g) was added to a solution of the product in DMF (35 ml), and the mixture was stirred at room temperature for 2.5 hr. The reaction mixture was combined with water and extracted with ethyl acetate. The extract was successively washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:1 to 1:3) to give the titled compound (4.22 g) as a pale yellow oil.

reactant | Triethylamine | 3.16 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.40 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[1-[4-(4-tert-butoxyphenyl)butyl]-1H-imidazol-2-yl]ethanol | 4.77 g | C(C)(C)(C)OC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCO | C19H28N2O2
reactant | water | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-[1-[4-(4-tert-butoxyphenyl)butyl]-1H-imidazol-2-yl]ethyl methanesulfonate | CS(=O)(=O)OCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)OC(C)(C)C | C20H30N2O4S
